US05240935
A mixture of ethyl-3-methyl-8-isopropyl-2-azabicyclo[2.2.2]oct-7-ene-6-carboxylate (21.4 g, 78 mmol), acetic acid (200 mL) and platinum oxide (2.1 g) was placed on a Parr hydrogenator at 44 psi of hydrogen pressure for 41/4 hours. The catalyst was removed by filtration and the solvent was removed in vacuo. The residue was dissolved in water, neutralized with NH4OH to a pH of 10 and the mixture was extracted with CH2Cl2 (3×50 mL). The organic layers were combined, washed with brine and dried over MgSO4. The solvent was removed in vacuo to afford 18.1 g (97%) of ethyl 3-methyl-8-isopropyl-2-azabicyclo-[2.2.2]octane-6-carboxylate. The product was dissolved in ethanol and treated with 6.9N ethanolic HCl to afford 10.2 g of the hydrochloride salt as a white solid, m.p. 157.5°-158.5° C.

reactant | ethyl-3-methyl-8-isopropyl-2-azabicyclo[2.2.2]oct-7-ene-6-carboxylate | 78 mmol, 21.4 g | C(C)OC(=O)C1CC2C(NC1C=C2C(C)C)C | C14H23NO2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 2.1 g | [Pt]=O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | ethyl 3-methyl-8-isopropyl-2-azabicyclo-[2.2.2]octane-6-carboxylate | 18.1 g, 97% | CC1NC2C(CC1C(C2)C(C)C)C(=O)OCC | C14H25NO2
